US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide (0.223 g, 0.61 mmol), (R)-tert-butyl piperidin-3-ylcarbamate (0.366 g, 1.83 mmol) and DIEA (0.21 mL, 1.22 mmol) in NMP (2 mL) were stirred at 156° C. (bath) for 18 hours. The solvent was removed, and the residue was dissolved in ethyl acetate (20 mL), washed with water (10 mL), brine (10 mL) and dried over sodium sulfate. After removal of the solvent, the residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 30-70% CH3CN/water gradient; 30 CV) to give a solid. This solid was dissolved in DCM (3 mL), and TFA (0.5 mL) was added. The mixture was stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in DCM (1 mL), and 2N HCl in ether (3 mL) was added. The solid formed was collected by filtration to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide hydrochloride (0.022 g, 6% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.20 (s, 1H), 7.87 (d, 1H), 7.56 (s, 1H), 7.01 (d, 1H), 3.74 (s, 3H), 3.54 (m, 1H), 3.41 (m, 1H), 3.36 (m, 2H), 3.15 (m, 1H), 2.01 (m, 1H), 1.75 (m, 1H), 1.67 (m, 1H), 1.41-1.49 (m, 1H); LCMS (APCI+) m/z 446 (M+H)+.

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide | 0.61 mmol, 0.223 g | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C2=NN(C(C=C2)=O)C)F | C13H9BrFN5O2
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 1.83 mmol, 0.366 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 1.22 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-1-methyl-6-oxo-1,6-dihydropyridazine-3-carboxamide hydrochloride | 0.022 g, 6% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)C2=NN(C(C=C2)=O)C | InChI=1S/C18H20BrN7O2.ClH/c1-25-14(27)5-4-12(24-25)18(28)23-13-8-22-17-15(13)16(11(19)7-21-17)26-6-2-3-10(20)9-26;/h4-5,7-8,10H,2-3,6,9,20H2,1H3,(H,21,22)(H,23,28);1H/t10-;/m1./s1
